US07205404B1
A solution of (R)-3-phenyl-3-(hydroxy)-propyl methanesulfonate (3 mmol) and methylamine (10 mL, 40% in water) in THF (10 mL) is heated at 65° C. for 3 h. After cooling, the solution is diluted with ether, washed with saturated aqueous sodium bicarbonate and brine, and dried with anhydrous potassium carbonate. Concentration of extract provides (R)-3-phenyl-3-(hydroxy)-propyl amine.

reactant | (R)-3-phenyl-3-(hydroxy)-propyl methanesulfonate | 3 mmol | CS(=O)(=O)OCC[C@@H](O)C1=CC=CC=C1 | C10H14O4S
reactant | methylamine | 10 mL | CN | CH5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (R)-3-phenyl-3-(hydroxy)-propyl amine | C1(=CC=CC=C1)[C@@H](CCN)O | C9H13NO
